US06660744B1
A mixture of tert-butyl 4-[(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl]-4-hydroxy-1-piperidinecarboxylate (0.27 g, 0.00057 mol), benzyl N-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate (0.26 g, 0.00068 mol), tetrakis(triphenylphosphine)palladium (0.039 g, 0.000034 mol) and sodium carbonate (0.15 g, 0.0014 mol) in ethylene glycol dimethyl ether (7 mL) and water (3 mL) was heated at 85° C. for 16 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and ethylene glycol dimethyl ether was removed under the reduced pressure. The aqueous layer was extracted with dichloromethane (2×100 mL). The combined organic extracts were washed with water and brine, and dried over magnesium sulfate. The organic layer was filtered through silica gel twice to remove the catalyst, and the solvent was removed under reduced pressure. The residue was purified by RP-HPLC (Hypersilprep HS C18, 8μm, 250×21.1 mm; 5%-100% over 35 min with 0.1 M ammonium acetate, 21 mL/min) to yield tert-butyl 4-{[4-amino-3-(4-{[(benzyloxy)carbonyl]amino}-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl}-4-hydroxy-1-piperidinecarboxylate (0.1 g, 0.00017 mol). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 10 min, 1 mL/min) Rt 10.9 min. MS: MH+ 604.

reactant | tert-butyl 4-[(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl]-4-hydroxy-1-piperidinecarboxylate | 0.00057 mol, 0.27 g | NC1=C2C(=NC=N1)N(N=C2I)CC2(CCN(CC2)C(=O)OC(C)(C)C)O | C16H23IN6O3
reactant | benzyl N-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate | 0.00068 mol, 0.26 g | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(OCC1=CC=CC=C1)=O | C21H26BNO5
reactant | sodium carbonate | 0.0014 mol, 0.15 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 7 mL | COCCOC | C4H10O2
solvent | water | 3 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.000034 mol, 0.039 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-{[4-amino-3-(4-{[(benzyloxy)carbonyl]amino}-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl}-4-hydroxy-1-piperidinecarboxylate | 0.00017 mol, 0.1 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)OCC2=CC=CC=C2)OC)CC2(CCN(CC2)C(=O)OC(C)(C)C)O | C31H37N7O6
